USRE039591E1
Step 227c. 6-(aminomethyl)quinoline
6-(azidomethyl)quinoline (320 mg) and triphenylphosphine (880 mg) were dissolved in 7 mL THF. The reaction mixture was treated with 0.5 mL of H2O and refluxed for 7 hours. The reaction mixture was cooled and partitioned between Et2O and 1N HCl. The aqueous portion was then treated with 1N NaOH until basic and extracted into EtOAc. The organic portion was dried over Na2SO4 and concentrated under reduced pressure to give the title compound (70 mg) as a brown oil. MS(CI) m/e 159 (M+H)+.

reactant | 6-(azidomethyl)quinoline | 320 mg | N(=[N+]=[N-])CC=1C=C2C=CC=NC2=CC1 | C10H8N4
reactant | triphenylphosphine | 880 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | H2O | 0.5 mL | O | H2O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 6-(aminomethyl)quinoline | 70 mg | NCC=1C=C2C=CC=NC2=CC1 | C10H10N2
